US05084463
Step 5) Preparation of N-[4-[3-[[(6-Amino-2-quinolinyl)methyl]methylamino]-2-hydroxypropoxy] phenyl]methanesulfonamide
N-[4-[2-Hydroxy-3-[methyl[(6-nitro-2-quinolinyl)methyl]amino]propoxy]phenyl]methanesulfonamide (1.20 g, 2.61 mmol) and PtO2 (0.120 g, 10% by wt.) were suspended in ethanol (100 mL) and the flask was charged with H2 (1 atm). After stirring for 6 hours, the mixture was filtered through a pad of solka floc and the filtrate was concentrated in vacuo to afford 1.00 g of product as a pale oil which was used directly in the next step.

reactant | N-[4-[2-Hydroxy-3-[methyl[(6-nitro-2-quinolinyl)methyl]amino]propoxy]phenyl]methanesulfonamide | 2.61 mmol, 1.20 g | OC(COC1=CC=C(C=C1)NS(=O)(=O)C)CN(CC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-])C | C21H24N4O6S
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | PtO2 | 0.120 g | O=[Pt]=O
product | N-[4-[3-[[(6-Amino-2-quinolinyl)methyl]methylamino]-2-hydroxypropoxy] phenyl]methanesulfonamide | 1.00 g | NC=1C=C2C=CC(=NC2=CC1)CN(CC(COC1=CC=C(C=C1)NS(=O)(=O)C)O)C | C21H26N4O4S
